US08242133B2
A mixture of 0.51 g of 3-amino-2-hydroxy-5-trifluoromethylpyridine, 0.48 g of 3-methoxymethyl isonicotinic acid, 1.65 g of BOP reagent, 0.38 g of triethylamine and 6 ml of DMF was stirred at room temperature for one hour, and further stirred while heating at 50° C. for two hours. Water was added to the reaction mixture, followed by extraction with ethyl acetate twice. The combined organic layers were washed with a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.58 g of N-[2-hydroxy-5-(trifluoromethyl)pyridin-3-yl]-3-(methoxymethyl)isonicotinamide.

reactant | 3-amino-2-hydroxy-5-trifluoromethylpyridine | 0.51 g | NC=1C(=NC=C(C1)C(F)(F)F)O | C6H5F3N2O
reactant | 3-methoxymethyl isonicotinic acid | 0.48 g | COCC1=C(C(=O)O)C=CN=C1 | C8H9NO3
reactant | BOP reagent | 1.65 g | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.38 g | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | N-[2-hydroxy-5-(trifluoromethyl)pyridin-3-yl]-3-(methoxymethyl)isonicotinamide | 0.58 g | OC1=NC=C(C=C1NC(C1=C(C=NC=C1)COC)=O)C(F)(F)F | C14H12F3N3O3
